US05189179
5-[[2-(5-Hydroxy-1H-indol-3-yl)ethyl]amino]-N-[4-(trifluoromethyl)phenyl]-hexanamide, monohydrochloride
Serotonin hydrochloride hemihydrate (200 mg) and N-[4-(trifluoromethyl)phenyl]-5-oxo-hexanamide (246 mg) were stirred under nitrogen in methanol (8 mL) and treated with sodium cyanoborohydride (85 mg). After stirring 66 hours at 23° C., sodium bicarbonate (250 mg) and water (5 mL) were added. Thirty minutes later, the reaction was diluted with water (50 mL) and extracted with 1:4 2-propanol:dichloromethane (40 mL, 40 mL, 20 mL) and the extracts dried (Na2SO4) and concentrated in vacuo to an oil. The oil was chromatographed with 5:10:90, then 3:50:50 triethylamine:ethanol:ethyl acetate to isolate a component with Rf of 0.15 (5:10:90 triethylamine:ethanol:ethyl acetate). This oil was dissolved in ethanol (50 mL), treated with 1:9 concentrated hydrochloric acid:ethanol (2 mL), and concentrated in vacuo. Reconcentration from ethanol (50 mL) and placing under vacuum gave the title compound as an off-white solid (272 mg).

reactant | N-[4-(trifluoromethyl)phenyl]-5-oxo-hexanamide | 246 mg | FC(C1=CC=C(C=C1)NC(CCCC(C)=O)=O)(F)F | C13H14F3NO2
reactant | sodium cyanoborohydride | 85 mg | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | 250 mg | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | 50 mL | C(C)O | C2H6O
solvent | methanol | 8 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
solvent | water | 5 mL | O | H2O
product | 5-[[2-(5-Hydroxy-1H-indol-3-yl)ethyl]amino]-N-[4-(trifluoromethyl)phenyl]-hexanamide, monohydrochloride | 272 mg | Cl.OC=1C=C2C(=CNC2=CC1)CCNC(CCCC(=O)NC1=CC=C(C=C1)C(F)(F)F)C | InChI=1S/C23H26F3N3O2.ClH/c1-15(27-12-11-16-14-28-21-10-9-19(30)13-20(16)21)3-2-4-22(31)29-18-7-5-17(6-8-18)23(24,25)26;/h5-10,13-15,27-28,30H,2-4,11-12H2,1H3,(H,29,31);1H
